US05571810
A mixture of 3-chloro-3-(4-fluorophenyl)-2-(4-nitrophenyl)propenal (1.5 g), thioglycolic acid (0.36 ml) and triethylamine (1.5 ml) in pyridine (7.6 ml) was stirred at 70° C. for 1 hour and refluxed for 7 hours. Pyridine was evaporated, and the residue was dissolved in ethyl acetate, washed with water and dilute hydrochloric acid, dried and concentrated. The residue (1.6 g) was washed with toluene to give pale brown crystals of 5-(4-fluorophenyl)-4-(4-nitrophenyl)thiophene-2-carboxylic acid (1.1 g).

reactant | 3-chloro-3-(4-fluorophenyl)-2-(4-nitrophenyl)propenal | 1.5 g | ClC(=C(C=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C15H9ClFNO3
reactant | thioglycolic acid | 0.36 ml | C(CS)(=O)O | C2H4O2S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 7.6 ml | N1=CC=CC=C1 | C5H5N
product | 5-(4-fluorophenyl)-4-(4-nitrophenyl)thiophene-2-carboxylic acid | 1.1 g | FC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H10FNO4S
